US04175203
Preparation of 3-(4-Acetyl-8-hydroxytridecyl)benzoic Acid
3-(4-Acetyl-8-hydroxy-1-tridecenyl)benzoic acid (7.2 g., 0.02 mole) in ethanol (75 ml.) is hydrogenated over 1.5 g. of a 5% Pd on charcoal catalyst at 1 atmosphere pressure and room temperature. When the theoretical amount (0.02 mole) of hydrogen has been absorbed, the catalyst is filtered off, the solvent evaporated, and the residue chromatographed on silica gel with 4% methanol in chloroform as the eluant. The title compound is obtained as a colorless, viscous oil.

reactant | 3-(4-Acetyl-8-hydroxy-1-tridecenyl)benzoic acid | 0.02 mole, 7.2 g | C(C)(=O)C(CC=CC=1C=C(C(=O)O)C=CC1)CCCC(CCCCC)O | C22H32O4
reactant | hydrogen | 0.02 mole | [H][H] | H2
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | [Pd] | Pd
product | 3-(4-Acetyl-8-hydroxytridecyl)benzoic Acid | C(C)(=O)C(CCCC=1C=C(C(=O)O)C=CC1)CCCC(CCCCC)O | C22H34O4
